US05120848
(E)-3-[5-(4-Fluorophenyl)-2-(1-methylethyl)-4-(3-pyridinyl)-1H-imidazol-1-yl]-2-propenol
Methyl (E)-3-[5-(4-fluorophenyl)-2-(1-methylethyl)-4-(3-pyridinyl)-1H-imidazol-1-yl]-2-propenoate, 1'-oxide (0.18 g) in dichloromethane (3 ml) at 3° under nitrogen was treated with diisobutylaluminium hydride (1.5M in toluene; 0.94 ml). The mixture was stirred at 0° for 1 h and then quenched with water (1 ml) and extracted with ethyl acetate. The extracts were washed with brine, dried and evaporated. The residue was purified by CC eluting with a mixture of ethyl acetate, petroleum ether (bp. 40°-60°) and methanol (10:10:3) to give the title compound (0.05 g), δ(CDCl3) 8.60(m,1H,C-2 proton of pyridine), 8.48(m,1H,C-6 proton of pyridine), 7.81(m,1H, C-3 proton of pyridine), 6.63(d,1H,J15 Hz,NCH=CH), 5.56(dd,1H, J15 and 6 Hz,NCH=CH), 4.18(m,2H,CH2OH), 3.17(septet,1H,J7 Hz, CH(CH3)2), 1.42(d,6H,J7 Hz,CH(CH3)2).

reactant | Methyl (E)-3-[5-(4-fluorophenyl)-2-(1-methylethyl)-4-(3-pyridinyl)-1H-imidazol-1-yl]-2-propenoate | FC1=CC=C(C=C1)C1=C(N=C(N1/C=C/C(=O)OC)C(C)C)C=1C=NC=CC1 | C21H20FN3O2
reactant | diisobutylaluminium hydride | 1.5M, 0.94 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (E)-3-[5-(4-Fluorophenyl)-2-(1-methylethyl)-4-(3-pyridinyl)-1H-imidazol-1-yl]-2-propenol | 0.05 g | FC1=CC=C(C=C1)C1=C(N=C(N1/C=C/CO)C(C)C)C=1C=NC=CC1 | C20H20FN3O
